US07960552B2
To a solution of ethyl 6-[4-({[3-{[(2,6-dichlorophenyl)sulfinyl]methyl}-5-(1-methylethyl)-4-isoxazolyl]methyl}oxy)phenyl]-2-quinolinecarboxylate (6 mg, 0.01 mmol) in 1:1 tetrahydrofuran:methanol (0.5 mL) was added 1 N sodium hydroxide (0.020 mL, 0.020 mmol). The solution was heated in a microwave reactor at 90° C. for approximately 10 minutes and then 1 N hydrochloric acid (0.020 mL, 0.020 mmol) was added. The solution was concentrated and then dichloromethane and water were added. The layers were separated and the organic layer was dried over magnesium sulfate and concentrated to afford 6-[4-({[3-{[(2,6-dichlorophenyl)sulfinyl]methyl}-5-(1-methylethyl)-4-isoxazolyl]methyl}oxy)phenyl]-2-quinolinecarboxylic acid (6 mg, 100%). 1H-NMR (400 MHz, CDCl3) δ 8.38 (d, J=8 Hz, 1H), 8.23 (d, J=8 Hz, 2H), 8.04-8.01 (m, 2H), 7.68 (d, J=9 Hz, 2H), 7.31 (s, 3H), 7.07 (d, J=9 Hz, 2H), 5.14-4.99 (m, 2H), 4.84-4.59 (m, 2H), 3.24 (septet, J=7 Hz, 1H), 1.35 (d, J=7 Hz, 6H). LRMS (APCI) m/z 595 (M+H)+.

reactant | ethyl 6-[4-({[3-{[(2,6-dichlorophenyl)sulfinyl]methyl}-5-(1-methylethyl)-4-isoxazolyl]methyl}oxy)phenyl]-2-quinolinecarboxylate | 0.01 mmol, 6 mg | ClC1=C(C(=CC=C1)Cl)S(=O)CC1=NOC(=C1COC1=CC=C(C=C1)C=1C=C2C=CC(=NC2=CC1)C(=O)OCC)C(C)C | C32H28Cl2N2O5S
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | sodium hydroxide | 0.020 mmol, 1 N, 0.020 mL | [OH-].[Na+]
reactant | hydrochloric acid | 0.020 mmol, 1 N, 0.020 mL | Cl | ClH
solvent | methanol | 0.5 mL | CO | CH4O
product | 6-[4-({[3-{[(2,6-dichlorophenyl)sulfinyl]methyl}-5-(1-methylethyl)-4-isoxazolyl]methyl}oxy)phenyl]-2-quinolinecarboxylic acid | 6 mg, 100% | ClC1=C(C(=CC=C1)Cl)S(=O)CC1=NOC(=C1COC1=CC=C(C=C1)C=1C=C2C=CC(=NC2=CC1)C(=O)O)C(C)C | C30H24Cl2N2O5S
